US05962714
Treatment of (2-dimethylaminoethyl) cyclopentadiene (32.24 g, 236 mmol) with n-butyllithium (148 ml, 1.6M in hexane) in THF (150 ml) at 0° C. and subsequent reaction with chlorotrimethylsilane (30 ml, 236 mmol) at 0° C. for 4 hours followed by filtration of the precipitate, removal of the volatiles, and distillation at reduced pressure (51-52° C., 5×10-3 mm Hg) afforded at least three isomers of (2-dimethylaminoethyl)cyclopentadienyltrimethylsilane as a pale yellow liquid (44.12 g, 89%). 1H NMR (CDCl3) 8 6.70-6.05 (m, ring H), 3.28 (br s, ring H), 3.07-2.85 (m, ring H), 2.65-2.37 (m, 4H, CH2CH2N(CH3)2), 2.28 (s, major isomer), 2.27 (s) [6H, N(CH3)2 ], 0.14 (s), 0.13 (s), -0.04 (s, major isomer).

reactant | (2-dimethylaminoethyl) cyclopentadiene | 236 mmol, 32.24 g | CN(CCC1=CC=CC1)C | C9H15N
reactant | n-butyllithium | 1.6M, 148 ml | C(CCC)[Li]
reactant | chlorotrimethylsilane | 236 mmol, 30 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | (2-dimethylaminoethyl)cyclopentadienyltrimethylsilane | 44.12 g, 89% | CN(CCC[Si](C)(C)C1C=CC=C1)C | C12H23NSi
